US07723330B2
Step F: Preparation of N-(3-fluoro-4-(3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carboxamide:
Prepared by a 2-step process from 4-(4-amino-2-fluorophenoxy)-1-(4-methoxybenzyl)-N-(1-methylpiperidin-4-yl)-1H-pyrazolo[3,4-b]pyridin-3-amine and 4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carboxylic acid according to the procedure of Example 101, Step B. The crude was rinsed with Et2O to afford 8.8 mg (53%) of the desired product. LRMS (ESI pos) m/e 573.0 (M+1). 1H NMR (400 MHz, CD3OD/CDCl3) δ 8.14 (d, 1H), 8.05 (dd, 1H), 7.86 (m, 2H), 7.57 (m, 2H), 7.51 (d, 1H), 7.34 (m, 3H), 6.12 (d, 1H), 3.71 (m, 1H), 2.92 (m, 2H), 2.35 (s, 3H), 2.29 (m, 2H), 2.22 (m, 2H), 1.65 (m, 2H); 19F NMR (376 MHz, CD3OD/CDCl3) δ −112.1, −129.4.

reactant | 4-(4-amino-2-fluorophenoxy)-1-(4-methoxybenzyl)-N-(1-methylpiperidin-4-yl)-1H-pyrazolo[3,4-b]pyridin-3-amine | NC1=CC(=C(OC2=C3C(=NC=C2)N(N=C3NC3CCN(CC3)C)CC3=CC=C(C=C3)OC)C=C1)F | C26H29FN6O2
reactant | 4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carboxylic acid | FC1=CC=C(C=C1)N1C(C(=NC=C1)C(=O)O)=O | C11H7FN2O3
product | N-(3-fluoro-4-(3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carboxamide | 8.8 mg, 53% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2NC2CCN(CC2)C)NC(=O)C2=NC=CN(C2=O)C2=CC=C(C=C2)F | C29H26F2N8O3
